US09193719B2
4,6-Dimethyl-5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-amine (0.41 g, 1.4 mmol), KI (2.30 g, 13.9 mmol), and diiodomethane (4 mL, 49.6 mmol) were combined and stirred at RT. The suspension was treated with tert-butylnitrite (1.0 mL, 8.3 mmol) and the reaction mixture was stirred at RT for 12 h. The mixture was diluted with MeCN (10 mL), additional tert-butylnitrite (1.0 mL, 8.3 mmol) was added and stirring was continued at RT for 24 h. The reaction mixture was partitioned between EtOAc (120 mL) and sat. NaHCO3 (aq) (20 mL). The aqueous phase was collected and the organic phase was washed with sat. NaHCO3 (aq) (2×20 mL), 10% Na2S2O3(aq) (2×20 mL), and brine (2×20 mL). The combined aqueous washes were back-extracted with EtOAc (2×20 mL) and the combined organics were dried (MgSO4) and concentrated in vacuo. The residue was purified by silica gel chromatography (EtOAc/DCM) to afford 6-iodo-2,4-dimethyl-3-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridine (0.24 g, 43%) as an off white solid that was used in the next step without further purification. MS (ESI) m/z: 407.0 (M+H+).

reactant | 4,6-Dimethyl-5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-amine | 1.4 mmol, 0.41 g | CC1=CC(=NC(=C1OC1=CC(=NC=C1)C=1C=NN(C1)C)C)N | C16H17N5O
reactant | diiodomethane | 49.6 mmol, 4 mL | ICI | CH2I2
reactant | tert-butylnitrite | 8.3 mmol, 1.0 mL | C(C)(C)(C)ON=O | C4H9NO2
reactant | tert-butylnitrite | 8.3 mmol, 1.0 mL | C(C)(C)(C)ON=O | C4H9NO2
solvent | MeCN | 10 mL | CC#N | C2H3N
product | 6-iodo-2,4-dimethyl-3-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridine | 0.24 g, 43% | IC1=CC(=C(C(=N1)C)OC1=CC(=NC=C1)C=1C=NN(C1)C)C | C16H15IN4O
